US08211908B2
To a solution of 62 mg of (3S)—N-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)pyrrolidin-3-amine hydrochloride in 3 mL of methanol, 0.10 g of a 28% sodium methoxide/methanol solution, 37 mg of (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde, 60 μL of acetic acid, 0.12 g of molecular sieves 3A and 11 mg of sodium cyanoborohydride were added at room temperature, and the mixture was stirred at the same temperature for 1 hour 10 minutes. To the reaction mixture, a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate were added, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=30:1, thereto were added ethyl acetate and a 4 mol/L hydrogen chloride/ethyl acetate solution, and the solid was filtered off to obtain 33 mg of 1-(2-((3S)-3-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)pyrrolidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride as a yellow solid.

reactant | (3S)—N-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)pyrrolidin-3-amine hydrochloride | 62 mg | Cl.O1CCOC=2C=NC(=CC21)CN[C@@H]2CNCC2
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 37 mg | FC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C10H7FN2O2
reactant | sodium cyanoborohydride | 11 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 60 μL | C(C)(=O)O | C2H4O2
product | 1-(2-((3S)-3-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)pyrrolidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 33 mg | Cl.O1CCOC=2C=NC(=CC21)CN[C@@H]2CN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | InChI=1S/C22H24FN5O3.ClH/c23-15-9-19-18(26-11-15)1-2-22(29)28(19)6-5-27-4-3-16(14-27)24-12-17-10-20-21(13-25-17)31-8-7-30-20;/h1-2,9-11,13,16,24H,3-8,12,14H2;1H/t16-;/m0./s1
